US05576340
2-[2-(4-Methoxycarbonylmethyl-2-chlorophenoxy)-1-methylethyl]amino-1-(3-chlorophenyl)ethanol (Compound No. 3-28)
Following a procedure similar to that described in Example 6, but using 5.15 g of 2-amino-1-(3-chlorophenyl)ethanol (prepared as described in Preparation 8), 10.3 g of methyl 3-chloro-4-(2-oxopropoxy)phenylacetate (prepared as described in Preparation 19), 200 ml of benzene, 100 ml of absolute methanol and 6 g of sodium cyanoborohydride, 1.2 g of the title compound were obtained as crystals, melting at 83°-103° C. (after recrystallization from a mixture of ethyl acetate and hexane).

reactant | 2-amino-1-(3-chlorophenyl)ethanol | 5.15 g | NCC(O)C1=CC(=CC=C1)Cl | C8H10ClNO
reactant | methyl 3-chloro-4-(2-oxopropoxy)phenylacetate | 10.3 g | ClC=1C=C(C=CC1OCC(C)=O)CC(=O)OC | C12H13ClO4
reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
reactant | sodium cyanoborohydride | 6 g | C(#N)[BH3-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 2-[2-(4-Methoxycarbonylmethyl-2-chlorophenoxy)-1-methylethyl]amino-1-(3-chlorophenyl)ethanol | 1.2 g | COC(=O)CC1=CC(=C(OCC(C)NCC(O)C2=CC(=CC=C2)Cl)C=C1)Cl | C20H23Cl2NO4
